US08017607B2
In a manner similar to the method described in Example C3, rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (80 mg, 0.189 mmol) was reacted with isocyanato-acetic acid ethyl ester (122 mg, 0.945 mmol) to give rac-{[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-acetic acid ethyl ester (91.2 mg, 87%). HRMS (ES+) m/z Calcd for C27H29Cl2F2N3O3+H [(M+H)+]: 552.1627; Found: 552.1629.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.189 mmol, 80 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | isocyanato-acetic acid ethyl ester | 0.945 mmol, 122 mg | C(C)OC(CN=C=O)=O | C5H7NO3
product | rac-{[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-acetic acid ethyl ester | 91.2 mg, 87% | C(C)OC(CNC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C27H29Cl2F2N3O3
